US06521666B1
To 2,6-dichloro-4-nitrobenzoic acid (12.8 g, U.S. Pat. No. 3,423,475) was added anhydrous CH2Cl2 (60 mL) and thionyl chloride (40 mL) then the resulting mixture was refluxed for 19 h. The mixture was allowed to cool to room temperature and evaporated. Additional CH2Cl2 (10 mL) was added and the solution was evaporated. MeOH (100 mL) was added to the residue and the mixture was refluxed for 17 h. The mixture was allowed to cool to room temperature and placed in an ice-bath. The precipitated solid was collected by filtration to give methyl 2,6-dichloro-4-nitrobenzoate (10.8 g, 80%).

reactant | 2,6-dichloro-4-nitrobenzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | thionyl chloride | 40 mL | S(=O)(Cl)Cl | Cl2OS
reactant | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | methyl 2,6-dichloro-4-nitrobenzoate | 10.8 g, 80% | ClC1=C(C(=O)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C8H5Cl2NO4
